Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall from standing
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old woman who experienced a
witnessed mechanical fall on a wet floor after mopping in the
kitchen. There was no loss of consciousness or evidence of
trauma. Her daughter reports that she saw her mother fall on her
back and hit the back of her head on the floor. She initially
presented to  ___, where a CT head, C-spine, and Torso
were performed. The only acute injury identified were numerous
right sided rib fractures. She was then transferred to ___ for
further management.  

Upon initial assessment by ___, Ms. ___ denies any acute
complaints. She is reports no confusion, fever, chills, chest
pain, shortness of breath, abdominal pain, extremity pain,
problems with bowel movements, or dysuria.
 
Past Medical History:
Past Medical History:
-HTN
-HLD
-Distant h/o kidney stones

Past Surgical History:
-R wrist ORIF
-R hip ORIF
 
Social History:
___
Family History:
Noncontributory 
 
Physical Exam:
Physical Exam:
Vitals:
97.7F, 65, 141/76, 18, 97% RA 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR 
PULM: No respiratory distress
ABD: S/NT/ND 
Ext: No ___ edema, ___ warm and well perfused
 
Pertinent Results:
___ 01:57AM   NEUTS-65.8 ___ MONOS-12.6 EOS-1.2 
BASOS-0.3 IM ___ AbsNeut-4.49 AbsLymp-1.35 AbsMono-0.86* 
AbsEos-0.08 AbsBaso-0.02
___ 01:57AM   PLT COUNT-153
___ 01:57AM   WBC-6.8 RBC-3.61* HGB-11.4 HCT-34.4 MCV-95 
MCH-31.6 MCHC-33.1 RDW-12.8 RDWSD-44.4
___ 10:19AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-SM 

CT head: 
IMPRESSION:  No evidence of acute hemorrhage or fracture.

CT CSpine: 
IMPRESSION:
1. Minimal anterolisthesis of C3 and C4, C5 on C6, and C6 on C7
likely degenerative, however no priors available for comparison.
2. No fractures are identified within the limits of diffuse
osteopenia.
3. Mild C3-4 disc bulge and minimal calcification along the base
of the C3 spinous process results in mild spinal canal narrowing
at this level.

CT Torso: 
IMPRESSION:
1. Multiple right-sided rib fractures are likely acute and
correlation with the location of the patient's right-sided chest
pain is recommended.  Multiple left-sided rib fractures appear
chronic.
2. T12 and L2 compression deformities are of uncertain
chronicity.
3. Large hiatal hernia containing nearly the entire stomach.  No
evidence of bowel obstruction.
4. The ascending aorta is aneurysmal measuring 4.4 cm.
5. Calcified subcarinal lymph node and calcified granuloma in 
the
left lung may represent sequela of chronic granulomatous 
disease.
 
Brief Hospital Course:
Ms. ___ was admitted to ___ following a witnessed 
mechanical fall from standing. For more information, please 
refer to the H&P. Ms. ___ was admitted overnight for pain 
control and observation. A tertiary exam was performed on HD2. 
No new injuries were appreciated at that time. She was seen by 
physical therapy, and deemed safe for return home with rolling 
walker. She was discharged home with instructions to follow up 
with her PCP ___ 2 weeks. 
 
Medications on Admission:
Medications - Prescription
CALCITONIN (SALMON) - Dosage uncertain -  (Prescribed by Other
Provider)Entered by MA/Other Staff
LISINOPRIL - lisinopril 40 mg tablet. 1 tablet(s) by mouth once 
a
day -  (Prescribed by Other Provider) (Not Taking as
Prescribed)Entered by MA/Other Staff
OMEPRAZOLE [PRILOSEC] - Prilosec 20 mg capsule,delayed release. 
1
capsule(s) by mouth once a day as needed -  (Prescribed by Other
Provider)Entered by MA/Other Staff
ROSUVASTATIN [CRESTOR] - Crestor 5 mg tablet. 1 tablet(s) by
mouth once a day -  (Prescribed by Other Provider)Entered by
MA/Other Staff
TRAMADOL - tramadol 50 mg tablet. 1 tablet(s) by mouth twice a
day start with half a pill to see the effect before increasing -
Entered by MA/Other Staff
TRAZODONE - Dosage uncertain -  (Prescribed by Other
Provider)Entered by MA/Other Staff
TRIAMTERENE-HYDROCHLOROTHIAZID - triamterene 37.5
mg-hydrochlorothiazide 25 mg tablet. 1 tablet(s) by mouth once a
day -  (Prescribed by Other Provider) (Not Taking as
Prescribed)Entered by MA/Other Staff
ZOLPIDEM - zolpidem 5 mg tablet. one half to one tablet(s) by
mouth at bedtime as needed -  (Prescribed by Other Provider) 
(Not
Taking as Prescribed)Entered by MA/Other Staff
 
Medications - OTC
ASPIRIN - Dosage uncertain -  (Prescribed by Other
Provider)Entered by MA/Other Staff
CAL CIT-MAG-D3-ZN-COP-MAN-BOR [CITRACAL PLUS MAGNESIUM] - Dosage
uncertain -  (Prescribed by Other Provider) (Not Taking as
Prescribed)Entered by MA/Other Staff
 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
RX *acetaminophen [8 HOUR PAIN RELIEVER] 650 mg 1 tablet(s) by 
mouth three times a day Disp #*60 Tablet Refills:*0 
2.  Calcitonin Salmon 200 UNIT NAS DAILY  
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*20 Capsule Refills:*0 
4.  Lisinopril 40 mg PO DAILY  
5.  TraMADol 25 mg PO Q6H:PRN pain 
take this only for severe pain 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every six 
(6) hours Disp #*30 Tablet Refills:*0 
6.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right sided rib fractures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You had sustained a fall and you fractured some of your ribs on 
the right side of you body. You were admitted for pain control. 
During our repeat trauma evaluation, you developed left sided 
ankle and foot pain. We evaluated this findings with x-rays 
which did not show a fracture. When you were tolerating a diet, 
you pain was controlled and ambulating well, physical therapy 
cleared you for home
 
Followup Instructions:
___